* C:\Users\User\Desktop\ProyectoFinal-Grupo5-VariadorDeFrecuencia\Hardware\Diseno\Relay\relay.asc
* Generated by LTspice 24.1.9 for Windows.
M1 Vd N003 0 0 2N7002
R1 N003 N002 1K
L1 N001 Vd 100m
R2 V1 N001 62.5
D1 Vd V1 1N4148
V1 V1 0 5
V2 N002 0 PULSE(0 3.3 0 0 0 1 2)
.model D D
.lib C:\Users\User\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\User\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 0 2 0 0.01
.backanno
.end
